data/pmechdb/original/mc_train_fold0/raw/train.txt
C[OH:10].CO[PH+:20](I)I>>C[OH+:10][PH:20](OC)(I)I 10=20,
[H:20][C:21]#CC.[NH2-:10]>>[H:20][NH2:10].CC#[C-:21] 10=20;20,21=21
C1=CC=C(C=C1)[CH:20]=[CH:21][CH:22]=[O:23].O[O-:10]>>C1=CC=C(C=C1)[CH:20]([CH:21]=[CH:22][O-:23])[O:10]O 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C.CC1=CCC([NH+]1CCOCCO)(C)[O-:10].C1=CC=CC=C1.O>>[H:20][O:10]C1(CC=C([NH+]1CCOCCO)C)C.CC(=O)[O-:21].C1=CC=CC=C1.O 10=20;20,21=21
[H:20][NH+:21](CC(C)(C)O)C1(C2=C(C=CC=C2)N=C(C1=[N+]([O-])[O-])Cl)Cl.CC(C)(C[NH2:10])O>>[H:20][NH2+:10]CC(C)(C)O.CC(C)(C[NH:21]C1(C2=C(C=CC=C2)N=C(C1=[N+]([O-])[O-])Cl)Cl)O 10=20;20,21=21
CO[C:11]1=[CH:10]C=CC=C1Br.[N+:20](=O)=[O:21]>>CO[C+:11]1[CH:10](C=CC=C1Br)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
CO[C:20](N)([O-:10])[O:21]C>>C[O-:21].CO[C:20](=[O:10])N 10=20;20,21=21
[H:20][O+:21]=CC1=C(C(=C(N1)C)CCC(=O)OC)C.C(=O)(C(F)(F)F)[O-:10].CO>>[H:20][O:10]C(=O)C(F)(F)F.CC1=C(NC(=C1CCC(=O)OC)C)C=[O:21].CO 10=20;20,21=21
C[N+:21](=[CH:20][SH:10])C>>C[N:21](C)[CH:20]=[SH+:10] 10=20;20,21=21
[H:20][OH:21].[B-]([O:10]C(CC)C1CC=CC=C1)(F)(F)F>>[H:20][O+:10]([B-](F)(F)F)C(CC)C1CC=CC=C1.[OH-:21] 10=20;20,21=21
[H:20][OH:21].COC1=C2C3=C(CC4C5(C3(CCN4CC6CC6)C(O2)C(CC5)([NH2+]N)[O-:10])O)C=C1.C(COCCO)O>>[H:20][O:10]C1(CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CC6CC6)O)[NH2+]N.[OH-:21].C(COCCO)O 10=20;20,21=21
CCO[C:20](=[O:21])C(C)C.[OH-:10]>>CCO[C:20](C(C)C)([OH:10])[O-:21] 10=20;20,21=21
C1=CC=C([CH:11]=[CH:10]1)C(F)(F)F.[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>C1=C[CH:10]([CH+:11]C(=C1)C(F)(F)F)[Br:20].[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21
C[CH:10]=[C:11](C)[O-:12].[CH3:20][Br:21]>>C[CH:10]([CH3:20])[C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
CCCC[C+:20]([OH:10])OC.O>>CCCC[C:20](=[OH+:10])OC.O 10=20
[H:20][O:21]C(=O)C(F)(F)F.CCCC1CC(OC1)(O)[OH:10]>>[H:20][OH+:10]C1(CC(CO1)CCC)O.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1CBr)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[C:22](C=CC=C1)CBr 10=20;20,21=21,22
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C#N)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C(C=C2)C#N)[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
CC1(N(C(CO1)C(C2=NC=CS2)O[Si-:10](C)(C)(C)[F:11])C(=O)OC(C)(C)C)C.CCCC[N+](CCCC)(CCCC)CCCC>>CC1(N(C(CO1)C(C2=NC=CS2)O[Si:10](C)(C)C)C(=O)OC(C)(C)C)C.[F-:11].CCCC[N+](CCCC)(CCCC)CCCC 10,11=11
[H:20][Cl:21].C[C:11]1=[CH:10]C(CCC1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1C(CCC([C+:11]1C)C2=CC=CC=C2)C3=CC=CC=C3.[Cl-:21] 10,11=10,20;20,21=21
CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OCC3C4C(CC(O3)C[CH+:20][CH2:10][Si-:11](C)(C)(C)OS(=O)(=O)C(F)(F)F)OC(=O)O4.CCO[Si](C)(C)C>>CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OCC3C4C(CC(O3)C[CH:20]=[CH2:10])OC(=O)O4.C[Si:11](C)(C)OS(=O)(=O)C(F)(F)F.CCO[Si](C)(C)C 10,11=10,20
[H:20][NH+:21](CC1=CC=CC=C1)C(C)C(=O)OCC2=CC=CC=C2.[OH2:10]>>[H:20][OH2+:10].CC(C(=O)OCC1=CC=CC=C1)[NH:21]CC2=CC=CC=C2 10=20;20,21=21
CCC1=C(OC(=C1[Si:20](C)(C)C(C)(C)C)C)CC2=CC=CC=C2.[F-:10].C1=CC=[NH+]C=C1>>CCC1=C(OC(=C1[Si-:20](C)(C)(C(C)(C)C)[F:10])C)CC2=CC=CC=C2.C1=CC=[NH+]C=C1 10=20,
CC12CC[C:20](=[N+:21]3CCCC3C(=O)O)C=C1CCC2=O.[OH-:10].CC(=O)[O-]>>CC12CC[C:20](C=C1CCC2=O)([N:21]3CCCC3C(=O)O)[OH:10].CC(=O)[O-] 10=20;20,21=21
[H:20][CH:21]1[C:22](=[N+:23](N=C1C(=O)OCC)C2=CC(=CC=C2)C#N)C3=CC=CO3.[OH2:10].CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CCOC(=O)C1=N[N:23]([C:22](=[CH:21]1)C2=CC=CO2)C3=CC(=CC=C3)C#N.CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
CC[C:20]1(C([OH+:21]1)C)C.[Br-:10]>>CC[C:20](C)(C(C)[OH:21])[Br:10] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)C(=O)C)Br.[Br-:10]>>[H:20][Br:10].CC(=O)C1=CC2=C(C=C1)[C:21](=[CH:22]C=C2)Br 10=20;20,21=21,22
[H:20][Br:21].C[C:11]1=[CH:10]CCCC1(C)C2=CC=CC=C2>>[H:20][CH:10]1CCCC([C+:11]1C)(C)C2=CC=CC=C2.[Br-:21] 10,11=10,20;20,21=21
CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.COC1=CC=C(C=C1)COC2C3C(C(C(CO3)[OH:10])N=[N+]=[N-])OC2C4=C(N=C(N=C4)OC)OC.CC(=O)[O-]>>CC(=O)O[I:20]1(C2=C(C=CC=C2)C(=O)O1)([OH+:10]C3COC4C(C3N=[N+]=[N-])OC(C4OCC5=CC=C(C=C5)OC)C6=C(N=C(N=C6)OC)OC)OC(=O)C.CC(=O)[O-] 10=20,
C[CH+:20]CBr.[Br-:10]>>C[CH:20](CBr)[Br:10] 10=20,
[CH2:10]=[O+:11][Cu]OS(=O)(=O)C(F)(F)F>>[CH2+:10][O:11][Cu]OS(=O)(=O)C(F)(F)F 10,11=11
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CC[C:11]3([C:10]2(CCC4C3COC(=O)C4)C)[O-:12].[Na+]>>C[C:10]1=[CH:20]CC[C:11](=[O:12])C2COC(=O)CC2CC1.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].[Na+] 10,11=10,20;20,21=21;12=11
CC1=CC=C(C=C1)C2CC[C:20](=[O+:21]CCO)CC2.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C>>CC1=CC=C(C=C1)C2CC[C:20](CC2)([OH2+:10])[O:21]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C 10=20;20,21=21
C[O-:10].[CH3:20][O:21][P+:22](C)(C)C>>C[O:10][CH3:20].C[P:22](=[O:21])(C)C 10=20;20,21=21,22
CC(C)C[Al:20](CC(C)C)CC(C)C.CC(=CC(=[O:10])C)C>>CC(C)C[Al-:20](CC(C)C)(CC(C)C)[O+:10]=C(C)C=C(C)C 10=20,
C[NH:10][S:20](=[OH+:21])C>>C[NH+:10]=[S:20](C)[OH:21] 10=20;20,21=21
CC(C)(C)[Si-:10](C)(C)([N+]1=CNC=C1)[Cl:11].CC1(CC(C(=O)C2C1O2)(C)CO)C>>CC(C)(C)[Si:10](C)(C)[N+]1=CNC=C1.[Cl-:11].CC1(CC(C(=O)C2C1O2)(C)CO)C 10,11=11
